US06228870B1
A suspension of 2-(piperidin-4-yl)-4-fluorobenzonitrile hydrochloride (2.5 g, 10.4 mmol), 3-bromo-1-tert-butoxycarbonylpropylamine (3.22 g, 13.5 mmol) and triethylamine (3.76 ml, 27 mmol) in DMF (12 ml) was stirred at room temperature for 16 hours. The reaction mixture was diluted with ethyl acetate (200 mL) and washed with saturated bicarbonate solution, water×2 and brine. Drying and solvent evaporation gave after flash chromatography (silica gel, ethyl acetate) 3.1 g of 2-[1-(3-tert-butoxycarbonylaminopropyl) piperidin-4-yl]-4-fluorobenzonitrile. This material was dissolved in EtOAc (200 mL), cooled to 0° C. and HCl gas was bubbled into the solution for 15 minutes. The reaction mixture was concentrated at reduced pressure to give the title compound.

reactant | 2-(piperidin-4-yl)-4-fluorobenzonitrile hydrochloride | 10.4 mmol, 2.5 g | Cl.N1CCC(CC1)C1=C(C#N)C=CC(=C1)F
reactant | 3-bromo-1-tert-butoxycarbonylpropylamine | 13.5 mmol, 3.22 g | BrCCC(C(=O)OC(C)(C)C)N | C8H16BrNO2
reactant | triethylamine | 27 mmol, 3.76 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-[1-(3-tert-butoxycarbonylaminopropyl) piperidin-4-yl]-4-fluorobenzonitrile | 3.1 g | C(C)(C)(C)OC(=O)NCCCN1CCC(CC1)C1=C(C#N)C=CC(=C1)F | C20H28FN3O2
